US07652049B2
In a dry flask was placed NaH (1.09 g of 60% NaH, 27.27 mmol). DMSO (90 mL) was added followed by trimethylsulfoxonium iodide (7.0 g, 31.82 mmol). The reaction was stirred for 5 minutes and then 3,5-bis(trifluoromethyl)benzaldehyde (1.5 mL, 9.09 mmol) was added as a solution in DMSO (15 mL). The reaction was stirred at room temperature for 1 hour and then poured into ice/water (300 mL). The mixture was extracted with pentanes (3×150 mL). The pentane extracts were combined and filtered through a short plug of silica gel with 10% Et2O/pentanes. The filtrate was concentrated and the residue was purified by flash chromatography with 10% Et2O/pentanes to give 2-[3,5-bis(trifluoromethyl)phenyl]oxirane. Rf=0.42 (10% Et2O/pentanes). 1H NMR (CDCl3, 500 MHz) 7.82 (s, 1H), 7.74 (s, 2H), 3.99 (dd, J=3.9, 2.5 Hz, 1H), 3.23 (dd, J=5.2, 4.1 Hz, 1H), 2.79 (dd, J=5.5, 2.5 Hz, 1H).

reactant | NaH | 27.27 mmol, 1.09 g | [H-].[Na+]
reactant | trimethylsulfoxonium iodide | 31.82 mmol, 7.0 g | [I-].C[S+](=O)(C)C
reactant | 3,5-bis(trifluoromethyl)benzaldehyde | 9.09 mmol, 1.5 mL | FC(C=1C=C(C=O)C=C(C1)C(F)(F)F)(F)F | C9H4F6O
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
solvent | DMSO | 90 mL | CS(=O)C | C2H6OS
product | 2-[3,5-bis(trifluoromethyl)phenyl]oxirane | FC(C=1C=C(C=C(C1)C(F)(F)F)C1OC1)(F)F | C10H6F6O
